US04278748
3-[5-(2-Formylhydrazino)-2-methoxyphenyl]propionic acid
3-(5-Amino-2-methoxyphenyl)propionic acid (4 g, 0.02 mole), concentrated hydrochloric acid (30 ml) and water (45 ml) were stirred together at 0°. The mixture was treated with sodium nitrite (1.38 g, 0.02 mole) in water (10 ml) at 0°. The solution was then stirred for a further one-half hour. The excess of nitrous acid was destroyed with urea. The above reaction mixture was added to a solution of stannous chloride (7.6 g) in concentrated hydrochloric acid (10 ml). The precipitate (5 g) was collected by filtration. Free hydrazine was obtained from a concentrated aqueous solution of the crude hydrochloride by addition of saturated aqueous solution of sodium acetate. A mixture of 3-(5-hydrazino-2-methoxyphenyl)propionic acid (8.8 g, 0.025 mole), sodium formate (2.8 g, 0.04 mole), formic acid (18 ml) and ethanol (60 ml) was heated under reflux for one hour. The solvents were removed under vacuum and the residue was dissolved in ethyl acetate (1 liter). The organic layer was then washed with water and dilute aqueous hydrochloric acid (1 percent). The organic layer was dried with sodium sulphate, the solvent was removed under reduced pressure and the residue crystallized from water (5 g).

reactant | 3-(5-hydrazino-2-methoxyphenyl)propionic acid | 0.025 mole, 8.8 g | N(N)C=1C=CC(=C(C1)CCC(=O)O)OC | C10H14N2O3
reactant | sodium formate | 0.04 mole, 2.8 g | C(=O)[O-].[Na+]
reactant | formic acid | 18 ml | C(=O)O | CH2O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-[5-(2-Formylhydrazino)-2-methoxyphenyl]propionic acid | C(=O)NNC=1C=CC(=C(C1)CCC(=O)O)OC | C11H14N2O4
